US07176242B2
Methyl 3-{[butyl(methyl)amino]methyl}-5-methylbenzoate
To methyl 3-(hydroxymethyl)-5-methylbenzoate prepared by the method in EXAMPLE SP-177 (1.1 g, 6.1 mmol), in anhydrous methylene chloride (10 mL) is added methanesulfonyl chloride (663 μL, 8.6 mmol) at −30° C., and the reaction is warmed to 0° C. The reaction stirred 1 h, then filtered. The filtrate is added to N-methylbutylamine (2.1 mL, 18.3 mmol), and the reaction stirred at room temperature 16 h. The solution is concentrated under reduced pressure. Purification by flash chromatography affords the title compound in pure form. ESI MS m/z 250.2 [M+H]+.

reactant | methyl 3-(hydroxymethyl)-5-methylbenzoate | OCC=1C=C(C(=O)OC)C=C(C1)C | C10H12O3
reactant | methanesulfonyl chloride | 8.6 mmol, 663 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methylbutylamine | 18.3 mmol, 2.1 mL | CNCCCC | C5H13N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[butyl(methyl)amino]methyl}-5-methylbenzoate | C(CCC)N(C)CC=1C=C(C(=O)OC)C=C(C1)C | C15H23NO2
